US05318966
1.8 g (0.0066 mol) of rac-cis-3-cyclopentyl-2,3,3a,4,5,9b-hexahydro-6-methoxy-1H-benzo[e]indole were dissolved in 0.2 l of 48% aqueous HBr and boiled under reflux for 1 hour. The mixture was cooled and concentrated, whereupon 100 ml of an aqueous NaHCO3 solution and a small amount of 2N NaOH solution were added thereto, the mixture was extracted three times with CH2Cl2 and the extracts were dried with MgSO4, filtered and concentrated. The brown crystals (1.7 g) were dissolved in 30 ml of ethanol. 1.3 ml (0.0075 mol) of 5.8N ethanolic HCl solution were added dropwise thereto and the mixture was stirred at room temperature for 1 hour and at 0° for 1 hour. The separated crystals were filtered off under suction and washed with ethyl acetate. There were obtained 1.65 g (85%) of rac-cis-3-cyclo-pentyl-2,3,3a,4,5,9b-hexahydro-1H-benzo[e]indol-6-ol hydro-chloride as pale rose crystals with m.p. 256°-258°.

reactant | rac-cis-3-cyclopentyl-2,3,3a,4,5,9b-hexahydro-6-methoxy-1H-benzo[e]indole | 0.0066 mol, 1.8 g | C1(CCCC1)N1CC[C@@H]2C3=C(CC[C@H]12)C(=CC=C3)OC | C18H25NO
reactant | HCl | 0.0075 mol, 5.8N, 1.3 ml | Cl | ClH
solvent | HBr | 0.2 l | Br | BrH
product | rac-cis-3-cyclo-pentyl-2,3,3a,4,5,9b-hexahydro-1H-benzo[e]indol-6-ol hydro-chloride | 1.65 g, 85% | Cl.C1(CCCC1)N1CC[C@@H]2C3=C(CC[C@H]12)C(=CC=C3)O | InChI=1S/C17H23NO.ClH/c19-17-7-3-6-13-14-10-11-18(12-4-1-2-5-12)16(14)9-8-15(13)17;/h3,6-7,12,14,16,19H,1-2,4-5,8-11H2;1H/t14-,16+;/m1./s1
